US07524849B2
A solution of ethyl 2,4,6-trifluorophenylacetate (436 mg, 2.0 mmol) in 3 mL of tetrahydrofuran is cooled to −78° C., and lithium diisopropylamide (2.0 M in heptane/tetrahydrofuran/ethylbenzene, 1.0 mL, 2.0 mmol) is added dropwise with stirring. The mixture is stirred at −78° C. for 1 h, and cycloheptanecarboxylic acid chloride (321 mg, 2.0 mmol) is added dropwise. The mixture is warmed to room temperature and acidified with 2 mL of 1.0 N hydrochloric acid. The product is extracted with ethyl acetate. The organic layer is washed with saturated sodium chloride, dried over magnesium sulfate, and concentrated. The residue is chromatographed over silica gel, eluting with a gradient of hexanes to 10% ethyl acetate in hexanes. Concentration provides ethyl 3-cycloheptyl-3-oxo-2-(2,4,6-trifluorophenyl)propanoate as a colorless oil (410 mg). MS: m/z 341.2 (M−H).

reactant | ethyl 2,4,6-trifluorophenylacetate | 2.0 mmol, 436 mg | FC1=C(C(=CC(=C1)F)F)CC(=O)OCC | C10H9F3O2
reactant | lithium diisopropylamide | 2.0 mmol, 2.0 M, 1.0 mL | C(C)(C)[N-]C(C)C.[Li+]
reactant | cycloheptanecarboxylic acid chloride | 2.0 mmol, 321 mg | C1(CCCCCC1)C(=O)Cl | C8H13ClO
reactant | hydrochloric acid | 1.0 N, 2 mL | Cl | ClH
solvent | tetrahydrofuran | 3 mL | O1CCCC1 | C4H8O
product | ethyl 3-cycloheptyl-3-oxo-2-(2,4,6-trifluorophenyl)propanoate | 410 mg | C1(CCCCCC1)C(C(C(=O)OCC)C1=C(C=C(C=C1F)F)F)=O | C18H21F3O3
